US07807832B2
2-tert-Butylamino-4-[trimethylsilylethynyl]pyrimidine
A mixture of 2-chloro-4-[trimethylsilylethynyl]pyrimidine (25 g, 0.12 mol) and tert-butylamine (100 mL) was heated to 80° C. for 2 d in a sealed tube. The mixture was cooled to rt and triturated with hexanes (100 mL). The resulting white precipitate was filtered and washed with hexanes. The filtrate was concentrated to give the crude product as a brown oil, which was used in the following reaction without further purification. TLC: Rf=0.40. mp 71-73° C. IR: 3293 (br, w), 2962 (w), 1569 (s). 1H NMR: 8.22 (d, J=5.0 Hz, 1H), 6.57 (d, J=5.0 Hz, 1H), 5.19 (s, 1H), 1.42 (s, 9H), 0.26 (s, 9H). 13C NMR: 162.38, 158.15, 150.95, 112.94, 102.77, 97.62, 51.41, 29.25, −0.11. Anal. Calcd for C13H21N3Si: C, 63.11; H, 8.56; N, 16.98. Found: C, 63.20; H, 8.52; N, 16.70.

reactant | 2-chloro-4-[trimethylsilylethynyl]pyrimidine | 0.12 mol, 25 g | ClC1=NC=CC(=N1)C#C[Si](C)(C)C | C9H11ClN2Si
reactant | tert-butylamine | 100 mL | C(C)(C)(C)N | C4H11N
product | 2-tert-Butylamino-4-[trimethylsilylethynyl]pyrimidine | C(C)(C)(C)NC1=NC=CC(=N1)C#C[Si](C)(C)C | C13H21N3Si
